US06559145B2
Ethyl 2-(bromomethyl)-5-oxo-5H-[1,3]thiazolo[3,2-a]pyrimidine-6-carboxylate [BK.2].
A mixture of ethyl 2-methyl-5-oxo-5H-[1,3]thiazolo[3,2-a]pyrimidine-6-carboxylate (Preparation 8, 1.19 g), NBS (1.07 g) and benzoyl peroxide (25 mg) is heated to reflux in carbon tetrachloride (50 mL) for 6 h. After the mixture is cooled to rt, the precipitate is filtered. The precipitate is re-dissolved in methylene chloride (100 mL) and washed with water. The organic layer is separated, dried (MgSO4), and concentrated to afford 1.0 g (60%) of the title compound as a pale yellow solid. Physical characteristics: MS (ESI+) m/z 317, 319 (M+H)+. 1H NMR (CDCl3)δ 9.80, 8.15, 4.42, 1.40.

reactant | ethyl 2-methyl-5-oxo-5H-[1,3]thiazolo[3,2-a]pyrimidine-6-carboxylate | 1.19 g | CC1=CN2C(=NC=C(C2=O)C(=O)OCC)S1 | C10H10N2O3S
reactant | NBS | 1.07 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 25 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Ethyl 2-(bromomethyl)-5-oxo-5H-[1,3]thiazolo[3,2-a]pyrimidine-6-carboxylate | 1.0 g, 60% | BrCC1=CN2C(=NC=C(C2=O)C(=O)OCC)S1 | C10H9BrN2O3S
